US09079866B2
4′-(2-Aminopyrimidin-5-yl)-N-ethyl-3′-fluoro-4-(trifluoromethyl)biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 88 using 2-bromo-N-ethyl-5-(trifluoromethyl)benzenesulfonamide and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C19H16F4N4O2S, 440.09; m/z found, 441.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.56-8.53 (d, J=1.4, 2H), 8.34-8.31 (m, 1H), 7.99-7.95 (m, 1H), 7.63-7.59 (d, J=8.0, 1H), 7.59-7.53 (m, 1H), 7.36-7.34 (dd, J=7.1, 1.6, 1H), 7.34-7.32 (m, 1H), 2.97-2.71 (q, J=7.2, 2H), 1.15-0.84 (t, J=7.2, 3H).

reactant | 2-bromo-N-ethyl-5-(trifluoromethyl)benzenesulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCC | C9H9BrF3NO2S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 4′-(2-Aminopyrimidin-5-yl)-N-ethyl-3′-fluoro-4-(trifluoromethyl)biphenyl-2-sulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)S(=O)(=O)NCC)F | C19H16F4N4O2S
